US07056930B2
3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzonitrile
Trifluoro-methanesulfonic acid 3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl ester (5.00 g, 11.4 mmol) and zinc cyanide (1.47 g, 12.5 mmol) were combined in DMF (110 ml), degassed (evac./N2 purge 3×) then charged with tetrakis(triphenylphosphine) palladium (0) (1.8 g, 1.60 mmol). The resulting reaction mixture was heated to 85° C. in an oil bath for 6 h. Upon cooling to room temperature, the reaction mixture was filtered through a Celite pad and rinsed with EtOAc (200 ml). The filtrate was washed with water and saturated aqueous NaCl solution (1×200 ml each), dried over Na2SO4, filtered, and concentrated and chromatographed on silica gel eluting with 50% EtOAc/hexanes to provide an oil (1.95 g, 54%). (TLC 50% EtOAc/hexanes Rf 0.28); 1H NMR (400 MHz, CDCl3) δ 7.49–7.52 (m, 2H), 7.45–7.48 (m, 3H), 7.35–7.39 (m, 2H), 7.10–7.14 (m, 1H), 7.00–7.02 (m, 1H), 3.98 (ABq, □AB=48.9 Hz, J=13.0 Hz, 2H), 3.31–3.33 (m, 1H), 3.16–3.21 (m, 2H), 2.21–2.25 (m, 2H), 1.95–2.07 (m, 4H), 1.76–1.80 (m, 2H), 1.41–1.59 (m, 2H); APCI MS m/z 317.2 (M+1)+.

reactant | Trifluoro-methanesulfonic acid 3-(2-benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-phenyl ester | 11.4 mmol, 5.00 g | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C=CC2)OS(=O)(=O)C(F)(F)F | C22H24F3NO3S
reactant | DMF | 110 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 12.5 mmol, 1.47 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine) palladium (0) | 1.60 mmol, 1.8 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(2-Benzyl-2-aza-bicyclo[3.3.1]non-5-yl)-benzonitrile | 1.95 g, 54% | C(C1=CC=CC=C1)N1C2CCCC(CC1)(C2)C=2C=C(C#N)C=CC2 | C22H24N2
